US05324747
A mixture of 4.0 g (7.67 mmol) of N-[3-hydroxy-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester, 7.8 ml (76.6 mmol) of 1,3-dibromopropane and 5.3 g (38.3 mmol) of potassium carbonate in 75 ml of acetone and 15 ml of DMF was stirred at reflux under argon for 41 hours. The reaction mixture was filtered through a Celite pad and the filtrate was concentrated to a solid which was purified by HPLC using 5% ethyl acetate-toluene to give 3.5 g (72% yield, mp 67°-69°) of N-[3-(3-bromopropoxy)-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl) glycine methyl ester. The structure was confirmed by the nmr spectrum.

reactant | N-[3-hydroxy-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 7.67 mmol, 4.0 g | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C30H51NO6
reactant | 1,3-dibromopropane | 76.6 mmol, 7.8 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 38.3 mmol, 5.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-[3-(3-bromopropoxy)-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl) glycine methyl ester | 3.5 g, 72% yield | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCBr)=O | C33H56BrNO6
